CIRCUIT_1

R1 n2 n1 1.03246207994k
R2 n3 n2 2.00407938458k
R3 n2 n5 3.09992724929k
R4 GND n5 4.11959743399k
R5 n5 n4 3.13664760831k
R6 n0 n6 2.00274902802k
R7 n6 n7 1.04584791445k
V0 GND n0 dc 0
Va n1 GND dc 5.21005945917
Id n7 n4 dc 1.04562966374m
Hc n5 n7 V0 8.21039470748k
Gb n4 n3 n2 n5 7.02164593403m

.control
op 
echo "********************************************"
echo  "Resistance - Currents"
echo "********************************************"
echo  "op_amp_TAB"
print @R1[i]
print @R2[i]
print @R3[i]
print @R4[i]
print @R5[i]
print @R6[i]
print @R7[i]
echo  "op_amp_END"

echo "********************************************"
echo  "Voltages"
echo "********************************************"
echo  "op_volt_TAB"
print n0
print n1
print n2
print n3
print n4
print n5
print n6
print n7
echo  "op_volt_END"


quit
.endc
.end
