CIRCUIT_1

R1 n1 n2 1.03246207994k
R2 n3 n2 2.00407938458k
R3 n2 n5 3.09992724929k
R4 n5 GND 4.11959743399k
R5 n5 n6 3.13664760831k
R6 n0 n7 2.00274902802k
R7 n7 n8 1.04584791445k
C1 n6 n8 1.04562966374u 
V0 GND n0 dc 0
Vs n1 GND 0.0 ac 1.0 sin(0 1 1k 0 0 0)
Hd n5 n8 V0 8.21039470748k
Gb n6 n3 n2 n5 7.02164593403m


.ic v(n6)=8.748008 v(n8)=0

.op

.end

.control



*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0


op 

tran 1e-5 20e-3

hardcopy trans2.ps v(n6) V(n1)
echo trans2_FIG

.endc
.end
